US08278290B2
(ii) 7-Hydoxy-6-methoxy-2-(2H-tetrazol-5-yl)-3-(3,4,5-trimethoxybenzoyl)-benzo[b]furan
Mixture of 2-cyano-7-acetoxy-6-methoxy-3-(3,4,5-trimethoxybenzoyl)-benzo[b]furan (15 mg, 0.04 mmol) ammonium chloride (11 mg, 0.2 mmol) and sodium azide (13 mg, 0.2 mmol) in dry DMF (400 μL) was stirred at 110° C. for 4 hours. More sodium azide (15 mg, 0.23 mmol) was added and stirring was continued for 1 hour (tlc), quenched with saturated ammonium chloride solution and extracted with ethyl-acetate (10 mL×2). The organic layer was dried over magnesium sulfate and solvent was distilled and the crude was purified by silica gel plate to afford the title compound as creamy solid; (3.5 mg, 21%; 1H NMR (300 MHz, CDCl3) δ: 7.85(1H, NH), 7.26(d, J=8.54 Hz, 1H), 7.02(s, 2H, benzoyl Hs), 6.95(d, J=8.54 Hz, 1H), 5.74(b, 1H, OH), 3.97(s, 3H, OMe), 3.88(s, 3H, OMe), 3.82(s, 6H, 2×OMe).

reactant | 2-cyano-7-acetoxy-6-methoxy-3-(3,4,5-trimethoxybenzoyl)-benzo[b]furan | 0.04 mmol, 15 mg | C(#N)C1=C(C2=C(O1)C(=C(C=C2)OC)OC(C)=O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H19NO8
reactant | sodium azide | 0.2 mmol, 13 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 0.23 mmol, 15 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 400 μL | CN(C)C=O | C3H7NO
product | 7-Hydoxy-6-methoxy-2-(2H-tetrazol-5-yl)-3-(3,4,5-trimethoxybenzoyl)-benzo[b]furan | OC1=C(C=CC2=C1OC(=C2C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=2N=NNN2)OC | C20H18N4O7
